US07208489B2
8-cyclopropyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one
HCl gas was bubbled through a solution of 4-[6-(8-cyclopropyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (96 mg, 0.21 mMol) in CH2Cl2 (5 mL) for a few minutes until solid was formed. The mixture was stirred at room temperature for 18 hours and the solid formed was collected by filtration and washed with CH2Cl2 then dried in vacuo to give the desired product 8-cyclopropyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one as its hydrochloride salt (83 mg, 85%). mp >300° C. Anal Calc'd for C19H21N7O. 2.1 HCl. 1.5 H2O: C, 48.87; H, 5,63; N, 20.99. Found: C, 49.23; H, 5.53; N, 20.68.

reactant | HCl | Cl | ClH
reactant | 4-[6-(8-cyclopropyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.21 mMol, 96 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C=C2)=O)C2CC2 | C24H29N7O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-cyclopropyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | C1(CC1)N1C(C=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)=O | C19H21N7O
